US07754926B2
GC revealed that peaks assigned to carbonyl compounds such as acrolein, 3-allyloxy-1-propionaldehyde and 3-hydroxy-1-propionaldehyde were not detected (these carbonyl compounds showed GC detection limit of 10 ppm or less in this example), but diallyl ether and 1,3-diallyloxypropane were produced.

reactant | acrolein | C(=O)C=C | C3H4O
reactant | diallyl ether | C(C=C)OCC=C | C6H10O
product | 1,3-diallyloxypropane | C(C=C)OCCCOCC=C | C9H16O2
